US06506901B2
Step B: 4-Aminomethyl-1-pentadecyl-piperidine
Prepared from 1-pentadecylpiperidine-4-carboxamide (4.3 g, 12.7 mmol) and LAH (0.97 g, 21.2 mmol) according to general procedure used for Example 8 (Step B) to give 4.3 g of title compound as a pale yellow solid.

reactant | 1-pentadecylpiperidine-4-carboxamide | 12.7 mmol, 4.3 g | C(CCCCCCCCCCCCCC)N1CCC(CC1)C(=O)N | C21H42N2O
reactant | LAH | 21.2 mmol, 0.97 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 4-Aminomethyl-1-pentadecyl-piperidine | 4.3 g | NCC1CCN(CC1)CCCCCCCCCCCCCCC | C21H44N2
